US07585885B2
5-Propoxy-isophthalic acid monomethyl ester
Heat commercially available 5-hydroxy-isophthalic acid dimethyl ester (1.0 g, 4.8 mmol), potassium carbonate (5.25 g, 38 mmol) and iodopropane (1.36 g, 8.0 mmol) in DMF (20 mL) at 70° C. for 8 h. Cool to room temperature, partition between ethyl acetate and 10% aqueous potassium carbonate. Wash the ethyl acetate layer with 1 N lithium chloride, saturated aqueous sodium chloride, dry (magnesium sulfate) and concentrate. Dissolve the residue in acetone (10 mL) and add a solution of NaOH (192 mg, 4.80 mmol) in methanol (2 mL). Stir at room temperature 16 h and concentrate. Partition between diethyl ether and 0.1 N citric acid, dry (magnesium sulfate) and concentrate to give the title compound.

reactant | 5-hydroxy-isophthalic acid dimethyl ester | 4.8 mmol, 1.0 g | COC(C1=CC(C(=O)OC)=CC(=C1)O)=O | C10H10O5
reactant | potassium carbonate | 38 mmol, 5.25 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodopropane | 8.0 mmol, 1.36 g | ICCC | C3H7I
reactant | NaOH | 4.80 mmol, 192 mg | [OH-].[Na+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | methanol | 2 mL | CO | CH4O
product | 5-Propoxy-isophthalic acid monomethyl ester | COC(C1=CC(C(=O)O)=CC(=C1)OCCC)=O | C12H14O5
